US07547710B2
4-Bromoaniline (14.9 g, 86.5 mmol) was heated to 120° C. and 2,6-difluorobenzoyl chloride (36.7 g, 208 mmol) was added. The temperature of the mixture was raised to 180° C. and zinc chloride (14.2 g, 104 mmol) was added. The temperature of the mixture was raised to 205° C. and the mixture was stirred for 3 hrs. The reaction mixture was cooled to 150° C., and 4N hydrochloric acid (100 ml) was added, and the mixture was heated under reflux for 15 min. The supernatant was removed, 4N hydrochloric acid (100 ml) was added to the residue, and the mixture was heated under reflux for 15 min. The supernatant was removed and the residue was dissolved in acetic acid (85 ml). Conc. hydrochloric acid (85 ml) was added at 120° C. and the mixture was heated under reflux for 12 hrs. The reaction mixture was concentrated under reduced pressure and 1N aqueous sodium hydroxide solution (200 ml) was added to the residue. The mixture was extracted with ethyl acetate, and the extract was washed with 1N hydrochloric acid and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give a crude product of (2-amino-5-bromophenyl)(2,6-difluorophenyl)methanone (7.8 g). To a solution of the crude product (5.2 g) and 5-methyl-3-oxohexanenitrile (2.1 g, 17 mmol) in toluene (100 ml) was added methanesulfonic acid (1.6 g, 17 mmol) and the mixture was heated under reflux for 17 hrs. The reaction mixture was washed with saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give 6-bromo-4-(2,6-difluorophenyl)-2-isobutylquinoline-3-carbonitrile (1.6 g, yield 4.6%) as a yellow solid.

reactant | 4-Bromoaniline | 86.5 mmol, 14.9 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2,6-difluorobenzoyl chloride | 208 mmol, 36.7 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
catalyst | zinc chloride | 104 mmol, 14.2 g | [Cl-].[Zn+2].[Cl-]
solvent | hydrochloric acid | 4N, 100 ml | Cl | ClH
product | (2-amino-5-bromophenyl)(2,6-difluorophenyl)methanone | 7.8 g | NC1=C(C=C(C=C1)Br)C(=O)C1=C(C=CC=C1F)F | C13H8BrF2NO
